US08017626B2
Method 20: Ethyl 2-(6-(6-chloropyrimidin-4-yl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate
To a 10 ml reaction vial was charged ethyl 2-(4-hydroxy-1-methyl-2-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-dihydroquinoline-3-carboxamido)acetate (200 mg, 465 μmol) in 1,4-dioxane (5 ml), 4,6-dichloropyrimidine (69 mg, 465 μmol), tetrakis(triphenylphosphine) palladium(0) (27 mg, 23 μmol) and sodium carbonate (0.7 ml, 1395 μmol), and the reaction vial was heated to 70° C. After reaction was complete, the reaction mixture was concentrated on a roto-evaporator, extracted with EtOAc, washed with water and brine (3× ea.) then dried with MgSO4 and concentrated on a roto-evaporator. The yellow solid was washed with EtOH and filtered and the solid was washed with ether. Yield=55 mg.

reactant | ethyl 2-(4-hydroxy-1-methyl-2-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-dihydroquinoline-3-carboxamido)acetate | 465 μmol, 200 mg | OC1=C(C(N(C2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)C)=O)C(=O)NCC(=O)OCC | C21H27BN2O7
reactant | 4,6-dichloropyrimidine | 465 μmol, 69 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 1395 μmol, 0.7 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 23 μmol, 27 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl 2-(6-(6-chloropyrimidin-4-yl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | ClC1=CC(=NC=N1)C=1C=C2C(=C(C(N(C2=CC1)C)=O)C(=O)NCC(=O)OCC)O | C19H17ClN4O5
